US04526890
In a procedure similar to that of Example 5, 1-chloro-4-hydrazino-5,6,7,8-tetrahydro-5,8-methanophthalazine (25.0 grams, 0.119 mol) was mixed with 150 milliliters of acetic acid, and the mixture was heated at the boiling temperature under reflux for two hours. The reaction mixture was concentrated and the residue taken up in aqueous sodium bicarbonate. The resulting precipitate was collected, washed with water and air-dried to yield 23.4 grams (84 percent yield) of 6-chloro-7,8,9,10-tetrahydro-3-methyl-7,10-methano(1,2,4)triazolo[3,4-a]phthalazine. After recrystallization from benzene-hexane this product melted at 137°-138° C. Infrared spectroscopy and elemental analysis were consistent with the named structure.

reactant | 1-chloro-4-hydrazino-5,6,7,8-tetrahydro-5,8-methanophthalazine | 0.119 mol, 25.0 grams | ClC1=NN=C(C=2C3CCC(C12)C3)NN | C9H11ClN4
reactant | acetic acid | 150 milliliters | C(C)(=O)O | C2H4O2
product | 6-chloro-7,8,9,10-tetrahydro-3-methyl-7,10-methano(1,2,4)triazolo[3,4-a]phthalazine | 23.4 grams, 84 percent yield | ClC1=NN2C(C=3C4CCC(C13)C4)=NN=C2C | C11H11ClN4
